US03931407
b. 1-(3-carboxy-4-hydroxyphenyl)-5-methoxy-2-phenyl-4,5,6,7-tetrahydroindole ##SPC89##
A mixture of 24.6 g. (0.1 mole) of 4-methoxy-2-phenacylcyclohexanone, 15.3 g. (0.1 mole) of 5-aminosalicylic acid, and 80 ml. of glacial acetic acid was heated under reflux for 1.5 hours, filtered, cooled and again filtered. The collected solid was washed with acetic acid and petroleum ether and recrystallized from acetonitrile to provide 22.5 g. (62%) of crystals, m.p. 207°-210°.

reactant | 4-methoxy-2-phenacylcyclohexanone | 0.1 mole | COC1CC(C(CC1)=O)CC(=O)C1=CC=CC=C1 | C15H18O3
reactant | 5-aminosalicylic acid | 0.1 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-carboxy-4-hydroxyphenyl)-5-methoxy-2-phenyl-4,5,6,7-tetrahydroindole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CC(CCC12)OC)C1=CC=CC=C1 | C22H21NO4
